2188-03-17 07:45:00 Physician Resident Progress Note
Chief Complaint: hypoxic
   24 Hour Events:
 MULTI LUMEN - START [**2188-3-16**] 10:00 PM
   All other events documented in ICU admission note
   Pt currently has no complaints.  Denies SOB, CP, palpitations, or
   cough.  No abdominal discomfort or loose stool.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2188-3-16**] 08:20 PM
   Vancomycin - [**2188-3-17**] 12:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2188-3-17**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-17**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36
C (96.8
   HR: 70 (70 - 93) bpm
   BP: 96/52(62) {69/39(47) - 118/68(80)} mmHg
   RR: 17 (16 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,528 mL
                                                                    630 mL
   PO:
             TF:
   IVF:
                                                                  4,528 mL
                                                                    630 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                  1,250 mL
   Urine:
                                                                    575 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,953 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94%
   ABG: 7.45/43/90.[**Numeric Identifier 126**]/26/4
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, on NRB
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   fine, at L base)
   Extremities: Right: 1+, Left: 1+, venostastis b/l in LE
   Skin:  Warm, b/l LE venoustasis
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   383 K/uL
   9.5 g/dL
   206 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.9 mEq/L
   25 mg/dL
   102 mEq/L
   135 mEq/L
   31.4 %
   30.9 K/uL
        [image002.jpg]
                             [**2188-3-16**]  07:37 PM
                             [**2188-3-17**]  04:14 AM
   WBC
   15.0
   30.9
   Hct
   28.6
   31.4
   Plt
   270
   383
   Cr
   1.5
   1.9
   TropT
   0.43
   Glucose
   109
   206
   Other labs: PT / PTT / INR:15.4/39.5/1.4, CK / CKMB /
   Troponin-T:74/5/0.43, Lactic Acid:1.7 mmol/L, Ca++:7.9 mg/dL, Mg++:3.5
   mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   87 y/o male w/ multiple medical problems including untreated colon CA,
   BPH, severe pulondary hypertension, transferred from floors w/ hypoxia,
   hypotension, fevers, and leukocytosis.
   HYPOXIA
   -          Patient w/ significant hypoxia for last few months.  Large
   b/l pleural effuions noted on CT, and tap consistent w/ transudate.
   TTE w/ sev ere pulmonary HTN and RV dysfunction.  No WML or EKG
   abnormalities to suggest IMI, and have high suspicion on PE in this
   cancer patient .
   -          No CTA [**2-23**] to ARF
   -          Upon cursory look, see no reason why patient could not be
   anticoagulated if treating empirically.  Per chart, patient has
   declined IVC filter in past.  Will address in family meeting
   -          Will consider thoracentesis to assist in oxygenation
   -          TTE to evaluate for worsening pericardial effusion noted on
   CT
   -          Continue O2 support
   SEPTIC SHOCK
   -          Acute sepsis on believed likely baseline respiratory
   dysfunction from GU source in setting of prolonged urologic
   manipulation during foly insertion.  Patient w/ fevers and
   leukocystosis.
   -          Continue vanc /zosyn
   -          Follow up blood / urine cultures
   -          Hypotension exacerbated w/ infection and diuresis, started
   on neo/levo/vaso.  Neo no d/cd and other pressors being weened.
   HEMATURIA
   -          from prolonged foley manipulation, urology in volved.  CBI
   still showing hematuria.  Terazosin [**2-23**] to hypotension.
   PAROXYSMAL AF
   -          on amioderone, no RVR.  Currently in sinus.  Not currently
   anticoagulated.
   RENAL INSUFFICEINCY
   -          Worseded Cr from 1.1 on admission to 1.9.  Pre renal from
   septic shock/diuresis vs. ATN from hypotension vs. post-renal from
   bladder obstruction w/ clots.
   -          Appears tanked on exam, but will continue to hydrate patient
   -          Renal lytes sent
   -          Renal u/s to evaluate for hydronephrosis
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Multi Lumen - [**2188-3-16**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code: patient was previous DNR/DNI but reversed by
   family prior to unit transfer.  Needs to be readdressed with family
   Disposition:

2188-03-17 11:15:00 Physician Attending Progress Note
Chief Complaint: hypoxia and hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   87 yo M with MMP
colon ca, untreated, BPH, sev pulm HTN on echo,
   admitted with shock
hypotension,  leukocytosis, and fever, and large
   pleural effusions,  requiring vasopressor support
   24 Hour Events:
   spiked to 101 6pm around time of transfer, hypotensive to 50's
   systolic--with rapid resuscitation with 4 L ivf and pressors support,
   weaned from neo, vasopressin and levo to vasopressin and levophed
   cx'd, difficult central line placement--attempted SCL but difficult to
   pass wire, placed R femoral line
 MULTI LUMEN - START [**2188-3-16**] 10:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2188-3-16**] 08:20 PM
   Vancomycin - [**2188-3-17**] 12:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2188-3-17**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, FH, SH, unchanged from admission aside from that listed below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, Dyspnea
   Genitourinary: Foley, supra pubic pain
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Flowsheet Data as of  [**2188-3-17**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.1
C (96.9
   HR: 73 (70 - 93) bpm
   BP: 109/66(66) {69/39(47) - 118/68(80)} mmHg
   RR: 21 (16 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,528 mL
                                                                    736 mL
   PO:
             TF:
   IVF:
                                                                  4,528 mL
                                                                    736 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                  1,950 mL
   Urine:
                                                                    575 mL
                                                                  1,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,953 mL
                                                                 -1,214 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 92%
   ABG: 7.45/43/90.[**Numeric Identifier 126**]/26/4
   Physical Examination
   WDWN M
   + JVD to earlobe,
   Coarse BS, symm chest wall excursion
   S1, S2 present, without RV heave
   + BS, NT soft
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: pressent), (Left DP pulse: present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: moves all 4
   extremeties, alert
   Labs / Radiology
   9.5 g/dL
   383 K/uL
   206 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.9 mEq/L
   25 mg/dL
   102 mEq/L
   135 mEq/L
   31.4 %
   30.9 K/uL
        [image002.jpg]
                             [**2188-3-16**]  07:37 PM
                             [**2188-3-17**]  04:14 AM
   WBC
   15.0
   30.9
   Hct
   28.6
   31.4
   Plt
   270
   383
   Cr
   1.5
   1.9
   TropT
   0.43
   Glucose
   109
   206
   Other labs: PT / PTT / INR:15.4/39.5/1.4, CK / CKMB /
   Troponin-T:74/5/0.43, Lactic Acid:1.7 mmol/L, Ca++:7.9 mg/dL, Mg++:3.5
   mg/dL, PO4:5.2 mg/dL
   Imaging: large effusion--r layering, ? infiltrate at R base vs
   atelectais, smaller l effusion
   Assessment and Plan
   87 yo M with MMP
colon ca, untreated, BPH, sev pulm HTN admitted with
   shock
hypotension, large effusions, transudative,  leukocytosis,
   fevers  requiring vasopressor support
   Concerned for PE with preload dependance and likely sepsis from
   presumed GU source
SHOCK/hypotension
mixed cardiogenic with preload dependence likely
   from PE and sepsis with GU infection
        Pt has previously declined treatment for cancer and repeat [**Female First Name (un) 217**]
   and IVC filter.  Need to readdress goals of care with pt and family, if
   wish is for more aggressive care will:
       attempt central line for SVC and SVO2, has full EJ and decent u/o
   which indicated fluiid full
        recheck echo
        consider theraupetic tap to assist with ventilation/oxygenation
         Is now in Acute renal fialure
and high risk for anticoagulation
   given colon ca and prior lLGIB and hematuria--so poor anticoag
   candidate and pt has declined IVC in past, but unable to evlal with v/q
   (effusions) or ctpag (ARF)
          Sepsis
pan cx
s, continue zosyn/ vanco
         IVFs and Vasopressor support
   #  hypoxemia
effusions, presum PE  + b/l effusions, and
   atelectasis--supp o2 and appears comfortable but tenuous, consider
   BiPAP, readdress code status with family and pt
       PROSTATIC HYPERTROPHY, BENIGN (BPH) with  hematuria
urology
   following now with 3wf and CBI, serial h/h
    #  Leukocytosis
suspect GU source, emperic antibx, check cdiff, AF now
   since initiation of antibx
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
renal u/s, follow u/o
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
no treatment,
   declined inpast,  readress goals of care
 ATRIAL FIBRILLATION (AFIB)
holding antihtn meds
   #difficult CVL placement
assess for clot with u/s (high risk given
   malignancy)
   ICU Care
   Nutrition: NPO given tenuous status
   Glycemic Control:  SSI
   Lines:  Fem line--
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Multi Lumen - [**2188-3-16**] 10:00 PM
   Prophylaxis:
   DVT:  sc heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full code
readdress with pt and family goals of care
   Disposition : ICU on pressors
   Total time spent:  cc 50

2188-03-18 07:24:00 Physician Resident Progress Note
Chief Complaint: Urosepsis and hypoxia
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2188-3-17**] 12:00 PM
   - urine - gram neg rods, added cipro for double coverage
   - RUE US - clot in IJ
   - code status - DNR/DNI after family meeting
   - CE neg x2
   - CXR - B pleural effusion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-3-17**] 04:16 PM
   Vancomycin - [**2188-3-17**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-3-18**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: Dysuria, Foley, [**Year (4 digits) 227**]
   Integumentary (skin): No(t) Rash
   Heme / Lymph: Coagulopathy
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2188-3-18**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.4
C (95.8
   HR: 70 (70 - 78) bpm
   BP: 110/62(73) {89/45(53) - 141/126(130)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
   Height: 72 Inch
    CVP: 12 (9 - 20)mmHg
   Total In:
                                                                  2,654 mL
                                                                    365 mL
   PO:
                                                                    990 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,664 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                    400 mL
   Urine:
                                                                  2,670 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -16 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 93%
   ABG: 7.37/45/73.[**Numeric Identifier 218**]/26/0
   PaO2 / FiO2: 73
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NRB
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/l, R > L)
   Abdominal: Soft, Tender: slight supra-pubic tenderness
   Extremities: Right: 1+, Left: 1+, hyperpigmentation and venostasis
   changes
   Skin:  Warm, hyperpigmentation and venostasis changes
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): PP,T, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   242 K/uL
   8.7 g/dL
   120 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.4 mEq/L
   39 mg/dL
   99 mEq/L
   134 mEq/L
   28.5 %
   15.5 K/uL
        [image002.jpg]
                             [**2188-3-16**]  07:37 PM
                             [**2188-3-17**]  04:14 AM
                             [**2188-3-17**]  10:56 AM
                             [**2188-3-17**]  03:05 PM
                             [**2188-3-18**]  06:07 AM
   WBC
   15.0
   30.9
   20.4
   15.5
   Hct
   28.6
   31.4
   30.6
   28.5
   Plt
   [**Telephone/Fax (3) 219**]42
   Cr
   1.5
   1.9
   2.2
   2.4
   TropT
   0.43
   0.23
   TCO2
   27
   Glucose
   109
   206
   135
   120
   Other labs: PT / PTT / INR:15.4/39.5/1.4, CK / CKMB /
   Troponin-T:55/4/0.23, Differential-Neuts:87.0 %, Band:10.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Imaging: UENI (R):  IMPRESSION:  Nonocclusive thrombus in the right
   inferior jugular vein spanning
   a few millimeters.  The superior jugular and subclavian vein are
   patent.
   CXR:
   Bilateral moderate right and small-to-moderate left pleural effusions
   have
   slightly increased in the meantime interval.  There is no change in the
   upper
   lobe vascular engorgement which probably could represent appropriate
   shunting
   of the blood flow given the presence of bilateral pleural effusions and
   bibasal atelectasis.  No pneumonia is demonstrated in the upper lungs.
   The
   heart size is largely obscured.  The pacemaker leads terminate in the
   right
   atrium and right ventricle.  There is no pneumothorax.
   TTE:  The left atrium is moderately dilated. The left atrial volume is
   markedly increased. The right atrium is moderately dilated. There is
   mild symmetric left ventricular hypertrophy. The left ventricular
   cavity size is normal. There is mild to moderate regional left
   ventricular systolic dysfunction with mild hypokinesis of the basal to
   mid septum. The right ventricular cavity is moderately dilated with
   mild global free wall hypokinesis. There is abnormal septal
   motion/position consistent with right ventricular pressure/volume
   overload. The aortic valve leaflets (3) are mildly thickened but aortic
   stenosis is not present. Trace aortic regurgitation is seen. The mitral
   valve leaflets are mildly thickened. There is no mitral valve prolapse.
   Moderate (2+) mitral regurgitation is seen. There is moderate pulmonary
   artery systolic hypertension. There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2188-3-7**], there is
   now clear hypokinesis of the septum and evidence of RV pressure/volume
   overload (both may have been present on the prior study but were not
   mentioned). There is now moderate mitral regurgitation (only trivial MR
   on prior). The right ventricle remains dilated and hypokinetic. The
   degree of pulmonary artery systolic hypertension is similar.
   Microbiology: CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Pending):
   Blood Culture, Routine (Preliminary):
         GRAM NEGATIVE ROD(S).
   Urince Culture: Pending
   Assessment and Plan
   87 y/o male w/ multiple medical probmes including untreated colon ca,
   BPH, severe [**Hospital 228**] transferred from floors w/ hypoxia, hypotension,
   fevers, and leukocytosis.
   HYPOXIA
   n        patient w/ significant hypoxia for last few monnths.  Large
   b/l pleural effuions noted on CT, and tp c/w transudate.  TTE w/ seve
   phtn and rv dysfunction.  No WML or EKG abn to suggeste IMI.  Repeat
   TTE w/ RV volume overload.  High suspcision for PE in this cancer pt.
   n        no cta [**2-23**] to arf
   n        thoracentesis today to improve oxygentation, if pleural
   effusions markedly reduced, possible V/Q scan
   n        continue O2 support
   SEPTIC SHOCK
   -          acute sepsis on believed likely baseline respiratory
   dysfucntion from GU source in setting of prolonged urologic
   manipulation during foley insertion.  Patient w/ fevers and
   leukocytssis.
   -          Continue vanc/zosyn, cipro added yesterday for double
   pseudomonas coverage
   -          Hypotension w/ infection and diuresis, started on
   neo/levo,vaso.  Vasopresion and neo now d/c
d, will continue to qeen
   levo.
   -          Follow up blood c/x.
   Hematuria:  now resolved, pt w/ continuous [**Last Name (LF) 227**], [**First Name3 (LF) **] touch base w/
   urology to see if can d/c
   PAF:
   n        on amioderone at home, no RVR.  Continue home dose, currently
   in sinus.  Not currently anticoagulated.
   RENAL INSUFFICIENCY:
        -- worsened Cr 1.1 on admission, 2.4 today up from 1.9 yesterday.
   Pre renal from septic shock/ diruesis vs. ATN from hypotension .  Renal
   u/s r/o post-renal obstruction.  Still making adequate urin output.
   Appears tanked w/ fluids on exam.  Will check urine lites once [**First Name3 (LF) 227**]
   d/c
   ICU Care
   Nutrition:
   Comments: Regular Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Multi Lumen - [**2188-3-16**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:After family meeting yesterday, decision was made not to
   escalate care.  Pt now DNR/DNI

2188-03-18 12:38:00 Physician Attending Progress Note
Chief Complaint: Mixed cardiogenic/septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2188-3-17**] 12:00 PM: decreased EF, PA
   pressure decreased compared to prior.
 ULTRASOUND - At [**2188-3-17**] 01:00 PM: Clot in right IJ
   * U culture grew GNR, Cipro added
   * Family mtg: DNR/DNI
   * Off vasopressin, Levo weaning
   Denies SOB, CP
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-3-17**] 04:16 PM
   Vancomycin - [**2188-3-17**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-3-18**] 04:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Amio, ASA, famotidine, ISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Edema
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-3-18**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.4
C (95.8
   HR: 71 (70 - 78) bpm
   BP: 106/49(58) {89/45(53) - 141/126(130)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm), AV Paced
   Height: 72 Inch
   CVP: 28 (5 - 29)mmHg
   Total In:
                                                                  2,654 mL
                                                                    391 mL
   PO:
                                                                    990 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,664 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                    400 mL
   Urine:
                                                                  2,670 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -16 mL
                                                                     -9 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present), chronic stasis change
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Extremities: Right: 2+, Left: 2+, chronic stasis
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   242 K/uL
   120 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.4 mEq/L
   39 mg/dL
   99 mEq/L
   134 mEq/L
   28.5 %
   15.5 K/uL
        [image002.jpg]
                             [**2188-3-16**]  07:37 PM
                             [**2188-3-17**]  04:14 AM
                             [**2188-3-17**]  10:56 AM
                             [**2188-3-17**]  03:05 PM
                             [**2188-3-18**]  06:07 AM
   WBC
   15.0
   30.9
   20.4
   15.5
   Hct
   28.6
   31.4
   30.6
   28.5
   Plt
   [**Telephone/Fax (3) 219**]42
   Cr
   1.5
   1.9
   2.2
   2.4
   TropT
   0.43
   0.23
   TCO2
   27
   Glucose
   109
   206
   135
   120
   Other labs: PT / PTT / INR:15.7/40.8/1.4, CK / CKMB /
   Troponin-T:55/4/0.23, Differential-Neuts:87.0 %, Band:10.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Imaging: Echo: compared to prior, RV remains dilated and hypokinetic,
   with lower estimated PASP, anterior/basal HK (may have been present on
   prior study).
   Renal U/S: no obstruction
   CXR: persistent R>L pleural effusion
   Microbiology: C. Diff Pending
   U Cx: GNR, not yet speciated
   Assessment and Plan:
   87 yo M with MMP
colon ca, untreated, BPH, sev pulm HTN admitted with
   shock
hypotension, large effusions, transudative,  leukocytosis,
   fevers  requiring vasopressor support
   Concerned for PE with preload dependance and sepsis from presumed GU
   source, with blood and urine growing GNR
   * HYPOXIA: Likely due to PE and effusions, though PE is based on echo
   and clinical picture
   - No anticoagulation at this point given high risk of GI bleeding (heme
   + stools, prior GIB, known colon ca with no staging, dx
d [**2184**])
   - Per converstations with patient and family yesterday we are deferring
   repeat thoracentesis, but will readdress
   * SHOCK: mixed cardiogenic and septic, improving on antibiotics
   - Continue to wean pressors
   - D/C Vanc as gram positive infection unlikely
   f/u cx sensitivities and speciation
 PROSTATIC HYPERTROPHY, BENIGN (BPH): Hematuria resolved.
   - D/W urology stopping CBI
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Worsening, likely
   due to low cardiac output and sepsis leading to ATN
   - Continue supportive care, follow I/O and lytes
   - Renally dose Zosyn/meds
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 ATRIAL FIBRILLATION (AFIB): Rate controlled on Amio
   Other issues discussed with housestaff. Agree with their assessments
   and plan
   ICU Care
   Nutrition:
   Comments: Taking PO's
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Multi Lumen - [**2188-3-16**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  not intubated
   Comments:
   Communication: Family meeting held , ICU consent signed
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:  40
   Patient is critically ill
   ------ Protected Section ------
   After additonal discussion with pt and family decision to reverse code
   status and pursue more aggressive approach.  Pt now Full Code.
   Thoracentesis performed with improvement in O2 sats and cxr
   appearance.  Will wean o2 as tolerated.  Underlying big issue remains
   suspected PE given echo findings and hypoxia with known malignancy. Had
   neg LENIs and is given ARF not candidate for CT PA.  Not felt
   anticoagulation candidate given known colon ca, prior GIB and heme +
   stools.  Will readdress with pt and family interest in prusuing
   oncology w/u and treamtnet for his known ca which wa declined in [**2184**].
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2188-3-18**] 21:26 ------

2188-03-19 07:07:00 Physician Resident Progress Note
Chief Complaint: Urosepsis and hypoxia
   24 Hour Events:
 THORACENTESIS - At [**2188-3-18**] 05:28 PM
   - code status reversed, currently FULL CODE
   - thoracentesis with removal of 1.5L of fluid
   - f/u CXR no PTX, unable to wean signficantly from NRB
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-3-17**] 04:16 PM
   Vancomycin - [**2188-3-17**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-3-18**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2188-3-19**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 70 (70 - 80) bpm
   BP: 107/60(72) {92/45(55) - 117/64(75)} mmHg
   RR: 15 (11 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Height: 72 Inch
    CVP: 16 (5 - 81)mmHg
   Total In:
                                                                  1,667 mL
                                                                    370 mL
   PO:
                                                                  1,280 mL
                                                                    370 mL
   TF:
   IVF:
                                                                    387 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    310 mL
   Urine:
                                                                  1,350 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
                                                                  1,200 mL
   Balance:
                                                                   -883 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 95%
   ABG: 7.38/49/67/28/2
   PaO2 / FiO2: 67
   Physical Examination
   General Appearance: No(t) No acute distress, No(t) Anxious, No(t)
   Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NRB
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/l, but fine)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, venoustatsis hyperpigmentation in LE b/l
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   249 K/uL
   8.4 g/dL
   82 mg/dL
   2.4 mg/dL
   28 mEq/L
   4.4 mEq/L
   43 mg/dL
   101 mEq/L
   137 mEq/L
   26.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2188-3-16**]  07:37 PM
                             [**2188-3-17**]  04:14 AM
                             [**2188-3-17**]  10:56 AM
                             [**2188-3-17**]  03:05 PM
                             [**2188-3-18**]  06:07 AM
                             [**2188-3-18**]  02:37 PM
                             [**2188-3-19**]  12:35 AM
                             [**2188-3-19**]  05:05 AM
   WBC
   15.0
   30.9
   20.4
   15.5
   14.5
   9.4
   Hct
   28.6
   31.4
   30.6
   28.5
   27.7
   26.6
   Plt
   [**Telephone/Fax (2) 231**]
   Cr
   1.5
   1.9
   2.2
   2.4
   2.3
   2.4
   TropT
   0.43
   0.23
   TCO2
   27
   30
   Glucose
   109
   206
   135
   120
   101
   82
   Other labs: PT / PTT / INR:15.1/44.9/1.3, CK / CKMB /
   Troponin-T:55/4/0.23, Differential-Neuts:87.0 %, Band:10.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:219 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: [**2188-3-19**]
   12:35a
   -----------------------------------------------------------------------
   ---------
   pH
   7.38
   pCO2
   49
   pO2 67
   HCO3 30
   BaseXS 2
   [**2188-3-19**]
   12:28a
   -----------------------------------------------------------------------
   ---------
   Source: Catheter
   Other Urine Chemistry:
   UreaN:508
   Creat:55
   Na:28
   Osmolal:330
   Source: Catheter
   Color Yellow  Appear Hazy
   SpecGr1.012
   pH   5.0
   Urobil Neg
   Bili Neg  Leuk Mod  Bld Lg  NitrNeg
   Prot 30
   Glu Neg  Ket Neg  RBC 100
   WBC 31  Bact None  Yeast None  Epi 0
   Pleural Fluid
   Chemistry   Protein
   1.3    Glucose
   73
   LD(LDH): 69
     Pleural Fluid     WBC
   111    RBC
   525
     Poly
   42    Lymph
   40    Mono
   12    EOs
   Meso: 1
   Macro: 1
   Other: 4
   Imaging: CXR s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 217**]:  WET READ Decreased size of small right pleural
   effusion.  Unchanged small left effusion.  No ptx.
   CXR prior to [**Female First Name (un) 217**]:  FINDINGS:  In comparison with the study of [**3-17**],
   the patient has taken a much
   better inspiration.  Continued moderate right and somewhat left pleural
   effusions with persistent vascular engorgement and enlargement of the
   cardiac
   silhouette.  Pacemaker devices remain in place.  Probable bibasilar
   atelectasis as well.
   Microbiology:  Pleural  Fluid Culture in Bottles (Pending):
   FECES NEGATIVE FOR C. DIFFICILE TOXIN BY EIA.
   URINE CULTURE (Final [**2188-3-18**]):
         GRAM NEGATIVE ROD(S).    ~[**2180**]/ML.
                                GRAM NEGATIVE ROD(S)
                                |
   CEFTAZIDIME-----------       S
   CEFTRIAXONE-----------       S
   CIPROFLOXACIN---------       R
   GENTAMICIN------------       S
   LEVOFLOXACIN----------       R
   MEROPENEM-------------       S
   PIPERACILLIN/TAZO-----       S
   TOBRAMYCIN------------       S
   TRIMETHOPRIM/SULFA----       R
   Assessment and Plan
   87 y/o male w/ multiple medical problmes including untreated colon ca,
   BPH, severe PHTN, admitted from [**Hospital 232**] clinic w/ hypoxia of 81% on room
   air, transsfered from floors w/ worsened hypoxia, hypotension, fevers,
   and leukocytosis.
   #  Hypoxia
   -          Patient w/ significant hypoxia for last few months, was
   beening seen in onc clinic to work up possible malignant pleural
   effuions.  Etiology of the effusions unclear.  [**Name2 (NI) 233**] tap c/w
   transudate, w/ negative cytology.  Had reaccumulated since initial
   tap.  TTE showed severe PHTN and RV diastolic dysfunction w/ fluid
   overload.  No WML or EKG abn to suggest IMI.  High suspicion of PE in
   this cancer patient, but still does not explain etiology of effusions.
    Degree of effusions seems disproportionate to degree of RV diastolic
   HF.
   -          No CTA [**2-23**] to ARF, V/Q scan not an option [**2-23**] to effusions
   -          Pleurodesis not a good option given tranudative etiology.
   [**Month (only) 51**] address possible pig tail cath for drainage later in admission
   -          Continue 02 support, oxygenation improved since yesterday
   tap, now on 6L w/ shovel max w/ good O2 sats.
   #Septic Shock:
   -          acute sepsis from GU source in setting of prolonged urologic
   manipulation during foley insertion.  Patient intitially w/ fevers and
   leukocytosis.
   -          Was on vanc/zosyn/cipro for double coverage to [**Month (only) **] growth
   of GNR from Ucx.  Sensitivities back, cipro/vanc d/c
d and zosyn
   switched today to CTX.
   -          Hypotension w/ infection and concominant dursesis. Started
   on neo/levo/vaso for pressors, now d/c
d and pressures stable.  Feel
   patient slightly dry, and will aim to make 0.5L + for the day.
   # Hematuria:
   -          now resolved.  Patient w/ [**First Name9 (NamePattern2) 227**] [**Last Name (un) **] stopped per urology.
   # PAF:  on amioderone at home, no RVR.  Continue home dose, currently
   in sinus.  Not anticoagulatd given fugating colon CA.
   # Colon Ca:  fungating mass dx in [**2184**], patient declinded treatment.
   Was in [**Hospital 232**] clinic to evaluate pleural effusions.  No malignant cells on
   cytology.   While palliative resection was one therapeutic option given
   pencil thin stools, patient declining further work up /treatment.
   # ARF:  Worsened Cr of 1.1 on admssion, 2.4 now and stable.  Pre renal
   from septic shock/ diuresis vs ATN from hypotensin.  Renal u/s r/o
   post-renal obstruction.  Not that [**Hospital 227**] complete, will monitor urine
   output.  Check urine lites and UA.
   ICU Care
   Nutrition:
   Comments: Regular Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Multi Lumen - [**2188-3-16**] 10:00 PM
   Comments: PICC line placement today, will then d/c femoral line
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code:  Code status reversed yesterday after family
   meeting.  No proceeding w/ escalated care.  Will need to further define
   today.
   Disposition:

2188-03-19 12:03:00 Physician Attending Progress Note
Chief Complaint: sepsis/hypotension/hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 THORACENTESIS - At [**2188-3-18**] 05:28 PM--1.2 L off, straw collored
   fluid
   >  Family meeting yesterday--change in status from DNR/DNI to full code
   >  CBI d/c'd yesterday---making good urine
   History obtained from Patient, house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-3-17**] 04:16 PM
   Vancomycin - [**2188-3-17**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-3-18**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-19**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 70 (70 - 80) bpm
   BP: 103/58(68) {92/45(55) - 117/87(92)} mmHg
   RR: 18 (11 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm), AV Paced
   Height: 72 Inch
   CVP: 16 (16 - 81)mmHg
   Total In:
                                                                  1,667 mL
                                                                    490 mL
   PO:
                                                                  1,280 mL
                                                                    490 mL
   TF:
   IVF:
                                                                    387 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    710 mL
   Urine:
                                                                  1,350 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
                                                                  1,200 mL
   Balance:
                                                                   -883 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 95%
   ABG: 7.38/49/67/28/2
   PaO2 / FiO2: 96
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : , Diminished: basis)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: all 4
s, weak Tone: Normal
   Labs / Radiology
   8.4 g/dL
   249 K/uL
   82 mg/dL
   2.4 mg/dL
   28 mEq/L
   4.4 mEq/L
   43 mg/dL
   101 mEq/L
   137 mEq/L
   26.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2188-3-16**]  07:37 PM
                             [**2188-3-17**]  04:14 AM
                             [**2188-3-17**]  10:56 AM
                             [**2188-3-17**]  03:05 PM
                             [**2188-3-18**]  06:07 AM
                             [**2188-3-18**]  02:37 PM
                             [**2188-3-19**]  12:35 AM
                             [**2188-3-19**]  05:05 AM
   WBC
   15.0
   30.9
   20.4
   15.5
   14.5
   9.4
   Hct
   28.6
   31.4
   30.6
   28.5
   27.7
   26.6
   Plt
   [**Telephone/Fax (2) 231**]
   Cr
   1.5
   1.9
   2.2
   2.4
   2.3
   2.4
   TropT
   0.43
   0.23
   TCO2
   27
   30
   Glucose
   109
   206
   135
   120
   101
   82
   Other labs: PT / PTT / INR:15.1/44.9/1.3, CK / CKMB /
   Troponin-T:55/4/0.23, Differential-Neuts:87.0 %, Band:10.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:219 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: reviewed [**Female First Name (un) 217**] results--c/w transudate
   Imaging: pulm edema, effusion layering, semi upright now c/t upright
   post tap film
   Stable fullness in hilum,
   Microbiology: blood e coli
   urine e coli--res to cipro,
   c diff pending
   Assessment and Plan
   87 yo M with MMP
colon ca, untreated, BPH, sev pulm HTN, chronic
   transudative  effusions  admitted with shock--
   Probable mixed cardiogenic and septic shock--PE with preload dependance
   and e coli urosepsis
improving though with tenuous respiratory and
   hemodynamic status
   * HYPOXIA: Likely due to presumed  PE (based on echo and clinical hx)
   and chronic effusions (transudative)
   - No anticoagulation
feel he is at high risk of GI bleeding (heme +
   stools, prior GIB, known colon ca with no staging, dx
d [**2184**])--need to
   reasses goals of care in terms of colon cancer evaluation as limited
   knowledge of cancer at this pt.  had neg LENIs , given recurrent renal
   failure and high risk from anticoag feel ctpa contraindicated at this
   time
     Slow improvement in oxygenation post thoracentesis--continue to wean
   O2
      Congestive from diastolic dysfx likely further contributing but
   would hold on dieresis given preload dependance and  tenuous bp
   >  pleural effusions--unclear etiology for his transudative chronic
   effusions
diastolic dysfx, renal failure, cytology pending with prior
   negative and given transudate unlikely related to malignancy or PE
       Monitor resp status, if reaccumulation occurs would consider
   pigtail catheter and IP c/s
   > SHOCK: mixed cardiogenic and septic, improving on antibiotics off
   pressors on adequate therapy for e coli
   - D/C Vanc as gram positive infection unlikely
    complete course of zosyn
   #  Hypotension--remains borderline off pressors, ? PE's with poor
   anticoagulation candidate so is preload dependant
        goal MAPs > 60
 PROSTATIC HYPERTROPHY, BENIGN (BPH): Hematuria resolved, CBU stopped
   with good u/o
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): likely due to low
   cardiac output and sepsis leading to ATN
   non-oliguric, creatinine appears to have peaked, check sediment, goal
   even fluid
   - Renally dose Zosyn/meds
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)--readdress
   with family issue of pursuing further evaluation for this
 ATRIAL FIBRILLATION (AFIB): Rate controlled on Amio
   Other issues discussed with housestaff. Agree with their assessments
   and plan
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2188-03-20 07:47:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
 MULTI LUMEN - STOP [**2188-3-19**] 10:22 AM
 STOOL CULTURE - At [**2188-3-19**] 09:00 PM
   -- family meeting yesterday: patient now DNR/DNI
   -- switched from zosyn to CTX
   -- improved oxygenation since tuesday's tap
   -- 5BM overnight, approx q2h
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-3-17**] 04:16 PM
   Vancomycin - [**2188-3-17**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-3-18**] 08:00 PM
   Ceftriaxone - [**2188-3-19**] 05:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-3-20**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Breathing improved, notes 5 [**Last Name (un) 234**] stools overnight, occuring approc
   every 2 hours
   Flowsheet Data as of  [**2188-3-20**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.3
   HR: 72 (70 - 72) bpm
   BP: 109/80(86) {97/52(64) - 131/82(94)} mmHg
   RR: 22 (13 - 23) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm), AV Paced
   Height: 72 Inch
                  Total In:
                                                                  1,180 mL
                                                                    270 mL
   PO:
                                                                  1,130 mL
                                                                    270 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    780 mL
   Urine:
                                                                  1,725 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -545 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 90%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Diminished: R>L base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   301 K/uL
   8.9 g/dL
   82 mg/dL
   2.4 mg/dL
   28 mEq/L
   4.3 mEq/L
   42 mg/dL
   105 mEq/L
   140 mEq/L
   28.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2188-3-16**]  07:37 PM
                             [**2188-3-17**]  04:14 AM
                             [**2188-3-17**]  10:56 AM
                             [**2188-3-17**]  03:05 PM
                             [**2188-3-18**]  06:07 AM
                             [**2188-3-18**]  02:37 PM
                             [**2188-3-19**]  12:35 AM
                             [**2188-3-19**]  05:05 AM
                             [**2188-3-20**]  04:21 AM
   WBC
   15.0
   30.9
   20.4
   15.5
   14.5
   9.4
   7.4
   Hct
   28.6
   31.4
   30.6
   28.5
   27.7
   26.6
   28.3
   Plt
   [**Telephone/Fax (2) 231**]
   301
   Cr
   1.5
   1.9
   2.2
   2.4
   2.3
   2.4
   2.4
   TropT
   0.43
   0.23
   TCO2
   27
   30
   Glucose
   109
   206
   135
   120
   101
   82
   82
   Other labs: PT / PTT / INR:14.7/37.1/1.3, CK / CKMB /
   Troponin-T:55/4/0.23, Differential-Neuts:87.0 %, Band:10.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:219 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   87 y/o male w/ multiple medical problmes including untreated colon ca,
   BPH, severe PHTN, admitted from [**Hospital 232**] clinic w/ hypoxia of 81% on room
   air, transferred from floors w/ worsened hypoxia, hypotension, fevers,
   and leukocytosis.
   #  Hypoxia
   -   Patient w/ significant hypoxia for last few months, was beening
   seen in onc clinic to work up possible malignant pleural effuions.
   Etiology of the effusions unclear.  [**Name2 (NI) 233**] tap c/w transudate, w/
   negative cytology.  Had reaccumulated since initial tap.  TTE showed
   severe PHTN and RV diastolic dysfunction w/ fluid overload.  No WML or
   EKG abn to suggest IMI.  High suspicion of PE in this cancer patient,
   but still does not explain etiology of effusions.  Degree of effusions
   seems disproportionate to degree of RV diastolic HF.
   -   No CTA [**2-23**] to ARF, V/Q scan not an option [**2-23**] to effusions
   -   Pleurodesis not a good option given tranudative etiology.  Will
   call IP for possible pig tail cath v pleurex catheter for drainage
   -   Continue 02 support, oxygenation improved and stable since tap, now
   on 6L w/ shovel max w/ good O2 sats.
   # Septic Shock:
   -   acute sepsis from GU source in setting of prolonged urologic
   manipulation during foley insertion.  Patient intitially w/ fevers and
   leukocytosis.
   -   Was on vanc/zosyn/cipro for double coverage to [**Month/Day (2) **] growth of GNR
   from Ucx.  Sensitivities back, cipro/vanc d/c
d and zosyn switched to
   CTX on [**3-19**].  will require 14 day course from day of Foley d/c.
   -   Hypotension w/ infection and concominant dursesis. Started on
   neo/levo/vaso for pressors, now d/c
d and pressures stable.
   # Diarrhea
 multiple, loose bowel movements overnight, stools approx
   q2 hours
   -          check cdiff x3
   # Hematuria:
   -  now resolved.  Patient w/ [**First Name9 (NamePattern2) 227**] [**Last Name (un) **] stopped per urology.
   # PAF:  on amiodarone at home, no RVR.  Continue home dose, currently
   in sinus.  Not anticoagulated given fungating colon CA.
   # Colon Ca:  fungating mass dx in [**2184**], patient declined treatment.
   Was in [**Hospital 232**] clinic to evaluate pleural effusions.  No malignant cells on
   cytology.   While palliative resection was one therapeutic option given
   pencil thin stools, patient declining further work up /treatment.
   Stools guaiac positive.
   # ARF:  Worsened Cr of 1.1 on admission, 2.4 now and stable.  Pre renal
   from septic shock/ diuresis vs ATN from hypotension.  Renal u/s r/o
   post-renal obstruction.  Not that [**Hospital 227**] complete, will monitor urine
   output.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: Call out to floor

2188-03-20 12:03:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2188-3-19**] 10:22 AM
 STOOL CULTURE - At [**2188-3-19**] 09:00 PM
   family mtg with change in code staus to DNR/DNI, continue with current
   level of care, pressors ok for hypotension, would consider repeat [**Female First Name (un) 217**]
   and pig tail catheter if indicated and does not want furtehr assessment
   of known colon ca
   History obtained from Patient, house satff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-3-17**] 04:16 PM
   Vancomycin - [**2188-3-17**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-3-18**] 08:00 PM
   Ceftriaxone - [**2188-3-19**] 05:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-3-20**] 06:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-20**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 73 (70 - 73) bpm
   BP: 135/69(83) {97/52(64) - 135/82(94)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
   Height: 72 Inch
                  Total In:
                                                                  1,180 mL
                                                                    670 mL
   PO:
                                                                  1,130 mL
                                                                    670 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                  1,200 mL
   Urine:
                                                                  1,725 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -545 mL
                                                                   -530 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: bases)
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   301 K/uL
   82 mg/dL
   2.4 mg/dL
   28 mEq/L
   4.3 mEq/L
   42 mg/dL
   105 mEq/L
   140 mEq/L
   28.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2188-3-16**]  07:37 PM
                             [**2188-3-17**]  04:14 AM
                             [**2188-3-17**]  10:56 AM
                             [**2188-3-17**]  03:05 PM
                             [**2188-3-18**]  06:07 AM
                             [**2188-3-18**]  02:37 PM
                             [**2188-3-19**]  12:35 AM
                             [**2188-3-19**]  05:05 AM
                             [**2188-3-20**]  04:21 AM
   WBC
   15.0
   30.9
   20.4
   15.5
   14.5
   9.4
   7.4
   Hct
   28.6
   31.4
   30.6
   28.5
   27.7
   26.6
   28.3
   Plt
   [**Telephone/Fax (2) 231**]
   301
   Cr
   1.5
   1.9
   2.2
   2.4
   2.3
   2.4
   2.4
   TropT
   0.43
   0.23
   TCO2
   27
   30
   Glucose
   109
   206
   135
   120
   101
   82
   82
   Other labs: PT / PTT / INR:14.7/37.1/1.3, CK / CKMB /
   Troponin-T:55/4/0.23, Differential-Neuts:87.0 %, Band:10.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:219 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Imaging: stable from yesterday, b/l effusions layering
   Assessment and Plan
   87 yo M with MMP
colon ca, untreated, BPH, sev pulm HTN, chronic
   transudative  effusions  admitted with shock--
   Probable mixed cardiogenic and septic shock--PE with preload dependance
   and e coli urosepsis and ARF
improving
   >HYPOXIA: Likely due to presumed PE (based on echo and clinical hx) and
   chronic effusions (transudative)
        Not started  on  anticoagulation
feel pt is at high risk of GI
   bleeding (heme + stools, prior GIB, known colon ca with no staging,
   dx
d [**2184**]),  given recurrent renal failure and high risk from anticoag
   feel ctpa contraindicated at this time and would not change management,
   had neg LENIs  and has declined IVC filter
      Post thoracentesis is making sow improvement in oxygenation
       Continue to wean O2
      Congestive from diastolic dysfx likely further contributing but
   would hold on diuresis given preload dependence
   >  pleural effusions--unclear etiology for his transudative chronic
   effusions
diastolic dysfx, PE (though exudate more common) renal
   failure, cytology pending with prior negative and given transudate
   unlikely related to malignancy
       Monitor resp status, if reaccumulation occurs would consider
   pigtail catheter
would talk to  IP service regarding this
   > SHOCK: mixed cardiogenic and septic, improving on antibiotics off
   pressors on adequate therapy for e coli
   - D/C Vanc as gram positive infection unlikely
    complete course of zosyn
   > Hypotension
improving and stable overnight, MAP goal > 60
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): likely due to low
   cardiac output and sepsis leading to ATN
   non-oliguric, creatinine appears to have peaked, check sediment, goal
   even fluid
   - Renally dose Zosyn/meds
 PROSTATIC HYPERTROPHY, BENIGN (BPH): Hematuria resolved, [**Year (4 digits) 227**] stopped
   with good u/o
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
have
   readdressed with pt and family and have confirmed, declined further
   evaluation or staging  of  known colonic malignancy
 ATRIAL FIBRILLATION (AFIB): Rate controlled on Amio
   Other issues discussed with housestaff. Agree with their assessments
   and plan as documented
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes

2188-03-21 08:06:00 Physician Resident Progress Note
Chief Complaint: Hypoxia, urosepsis
   24 Hour Events:
   No new events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2188-3-18**] 08:00 PM
   Ceftriaxone - [**2188-3-20**] 03:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-3-21**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-21**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 70 (70 - 73) bpm
   BP: 128/68(82) {99/55(53) - 158/92(99)} mmHg
   RR: 22 (14 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm), AV Paced
   Height: 72 Inch
                  Total In:
                                                                  1,680 mL
                                                                    300 mL
   PO:
                                                                  1,630 mL
                                                                    300 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,390 mL
                                                                    930 mL
   Urine:
                                                                  2,390 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -710 mL
                                                                   -630 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: R>L base)
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: 2+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   380 K/uL
   9.8 g/dL
   91 mg/dL
   2.4 mg/dL
   28 mEq/L
   4.2 mEq/L
   37 mg/dL
   107 mEq/L
   143 mEq/L
   31.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2188-3-16**]  07:37 PM
                             [**2188-3-17**]  04:14 AM
                             [**2188-3-17**]  10:56 AM
                             [**2188-3-17**]  03:05 PM
                             [**2188-3-18**]  06:07 AM
                             [**2188-3-18**]  02:37 PM
                             [**2188-3-19**]  12:35 AM
                             [**2188-3-19**]  05:05 AM
                             [**2188-3-20**]  04:21 AM
                             [**2188-3-21**]  03:49 AM
   WBC
   15.0
   30.9
   20.4
   15.5
   14.5
   9.4
   7.4
   9.1
   Hct
   28.6
   31.4
   30.6
   28.5
   27.7
   26.6
   28.3
   31.0
   Plt
   [**Telephone/Fax (2) 231**]
   301
   380
   Cr
   1.5
   1.9
   2.2
   2.4
   2.3
   2.4
   2.4
   2.4
   TropT
   0.43
   0.23
   TCO2
   27
   30
   Glucose
   109
   206
   135
   120
   101
   82
   82
   91
   Other labs: PT / PTT / INR:14.5/33.6/1.3, CK / CKMB /
   Troponin-T:55/4/0.23, Differential-Neuts:87.0 %, Band:10.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:219 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 ATRIAL FIBRILLATION (AFIB)
   87 y/o male w/ multiple medical problmes including untreated colon ca,
   BPH, severe PHTN, admitted from [**Hospital 232**] clinic w/ hypoxia of 81% on room
   air, transferred from floors w/ worsened hypoxia, hypotension, fevers,
   and leukocytosis.
   #  Hypoxia
   -   Patient w/ significant hypoxia for last few months, was beening
   seen in onc clinic to work up possible malignant pleural effuions.
   Etiology of the effusions unclear.  [**Name2 (NI) 233**] tap c/w transudate, w/
   negative cytology.  Had reaccumulated since initial tap.  TTE showed
   severe PHTN and RV diastolic dysfunction w/ fluid overload.  No WML or
   EKG abn to suggest IMI.  High suspicion of PE in this cancer patient,
   but still does not explain etiology of effusions.  Degree of effusions
   seems disproportionate to degree of RV diastolic HF.
   -   No CTA [**2-23**] to ARF, V/Q scan not an option [**2-23**] to effusions
   -   Pleurodesis not a good option given tranudative etiology.  Will
   call IP for possible pig tail cath v pleurex catheter for drainage
   -   Continue 02 support, oxygenation improved and stable since tap, now
   on 6L w/ shovel max w/ good O2 sats.
   # Septic Shock:
   -   acute sepsis from GU source in setting of prolonged urologic
   manipulation during foley insertion.  Patient intitially w/ fevers and
   leukocytosis.
   -   Was on vanc/zosyn/cipro for double coverage to [**Month/Day (2) **] growth of GNR
   from Ucx.  Sensitivities back, cipro/vanc d/c
d and zosyn switched to
   CTX on [**3-19**].  will require 14 day course from day of Foley d/c.
   -   Hypotension w/ infection and concominant dursesis. Started on
   neo/levo/vaso for pressors, now d/c
d and pressures stable.
   # Diarrhea
 multiple, loose bowel movements overnight, stools approx
   q2 hours
   -          check cdiff x3
   # Hematuria:
   -  now resolved.  Patient w/ [**First Name9 (NamePattern2) 227**] [**Last Name (un) **] stopped per urology.
   # PAF:  on amiodarone at home, no RVR.  Continue home dose, currently
   in sinus.  Not anticoagulated given fungating colon CA.
   # Colon Ca:  fungating mass dx in [**2184**], patient declined treatment.
   Was in [**Hospital 232**] clinic to evaluate pleural effusions.  No malignant cells on
   cytology.   While palliative resection was one therapeutic option given
   pencil thin stools, patient declining further work up /treatment.
   Stools guaiac positive.
   # ARF:  Worsened Cr of 1.1 on admission, 2.4 now and stable.  Pre renal
   from septic shock/ diuresis vs ATN from hypotension.  Renal u/s r/o
   post-renal obstruction.  Not that [**Hospital 227**] complete, will monitor urine
   output.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2188-03-21 10:41:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo M with MMP
colon ca, untreated, BPH, sev pulm HTN, chronic
   transudative  effusions , diastolic CHF,  admitted with shock--probable
   mixed cardiogenic and septic shock- e coli urosepsis and ARF
improving
   24 Hour Events:
   stable overnight
   History obtained from Patient, house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2188-3-18**] 08:00 PM
   Ceftriaxone - [**2188-3-20**] 03:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-3-21**] 05:50 AM
   Famotidine (Pepcid) - [**2188-3-21**] 08:35 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-21**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96
   HR: 71 (70 - 73) bpm
   BP: 141/73(90) {99/55(53) - 158/92(99)} mmHg
   RR: 21 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Height: 72 Inch
                  Total In:
                                                                  1,680 mL
                                                                    300 mL
   PO:
                                                                  1,630 mL
                                                                    300 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,390 mL
                                                                  1,510 mL
   Urine:
                                                                  2,390 mL
                                                                  1,510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -710 mL
                                                                 -1,210 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   upper b.l, Crackles : , Diminished: bases)
   Abdominal: Soft, Bowel sounds present, No(t) Distended, No(t) Tender: ,
   Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   380 K/uL
   91 mg/dL
   2.4 mg/dL
   28 mEq/L
   4.2 mEq/L
   37 mg/dL
   107 mEq/L
   143 mEq/L
   31.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2188-3-16**]  07:37 PM
                             [**2188-3-17**]  04:14 AM
                             [**2188-3-17**]  10:56 AM
                             [**2188-3-17**]  03:05 PM
                             [**2188-3-18**]  06:07 AM
                             [**2188-3-18**]  02:37 PM
                             [**2188-3-19**]  12:35 AM
                             [**2188-3-19**]  05:05 AM
                             [**2188-3-20**]  04:21 AM
                             [**2188-3-21**]  03:49 AM
   WBC
   15.0
   30.9
   20.4
   15.5
   14.5
   9.4
   7.4
   9.1
   Hct
   28.6
   31.4
   30.6
   28.5
   27.7
   26.6
   28.3
   31.0
   Plt
   [**Telephone/Fax (3) 231**]
   301
   380
   Cr
   1.5
   1.9
   2.2
   2.4
   2.3
   2.4
   2.4
   2.4
   TropT
   0.43
   0.23
   TCO2
   27
   30
   Glucose
   109
   206
   135
   120
   101
   82
   82
   91
   Other labs: PT / PTT / INR:14.5/33.6/1.3, CK / CKMB /
   Troponin-T:55/4/0.23, Differential-Neuts:87.0 %, Band:10.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:219 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Imaging: b/l effusions r> L, some improved aeration and decrease in
   mild pulm edema
   Assessment and Plan
   87 yo M with MMP
colon ca, untreated, BPH, sev pulm HTN, chronic
   transudative  effusions , diastolic CHF,  admitted with shock--probable
   mixed cardiogenic and septic shock- e coli urosepsis and ARF
improving
   Active issues remain:
   >HYPOXIA: Likely due to presumed PE (based on echo and clinical hx) and
   chronic effusions (transudative) from diastolic CHF
      After extensive discussion with pt and family
have not started on
   empiric anticoagulation given high risk of GI bleeding (heme + stools,
   prior GIB, known colon ca with no staging, dx
d [**2184**]),  given recurrent
   renal failure and high risk from anticoag feel
      ctpa contraindicated  to definitively dx pe at this time as dx would
   not change management, has had neg LENIs  and has
       declined IVC filter
      Making slow improvement in oxygenation though still with b/l
   effusions which will likely again reaccumulate s/p recent [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 217**]
       Congestive from diastolic dysfx likely further contributing
      Continue to wean O2 and consider gentle diuresis, though is likely
   preload dependent given his significant pulm htn on echo
   >  pleural effusions
felt [**2-23**] diastolic heart failure and possibly from
   PE (though exudative more common)
    have discussed with IP service whether pleurex cath might be
   considered given what appears to be slow reaccumulation post tap.  Pt
   would likely require 2 catheters given b/l effusions.  Data is limited
   regarding benefit from such cath for transudative effusions from
   diastolic CHF, additionally would be difficult for patient to care for
      Will update family and pt as given this limited data and risk of
   additional nutritional and immune compromise due to loss of protein in
   this setting feel that pleurex is not a great option, and possibly
   recurrent taps as necessary and optimized management of  ddfx
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): likely due to low
   cardiac output and sepsis leading to ATN
   non-oliguric, creatinine appears to have peaked and may not return to
   prior baseline, negative i/o may be reaching auto-diuresis phase of ATN
   - Renally dose Zosyn/meds and follow lytes
 PROSTATIC HYPERTROPHY, BENIGN (BPH): Hematuria resolved, [**Month/Day (2) 227**] stopped
   with good u/o
      would remove foley when pt able to use urinal
   > SHOCK: resolved
    complete course of ctx for 10-14 days after foley removal given
   bacteremia
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
have
   readdressedextensively with pt and family pt declines further
   evaluation or staging  of  known colonic malignancy
 ATRIAL FIBRILLATION (AFIB): Rate controlled on Amio
   Other issues discussed with housestaff. Agree with their assessments
   and plan as documented
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI (would consider pressors in setting of
   hypotension)
   Disposition :Transfer to floor, PT c/s
   Total time spent: 40 minutes

2188-03-22 06:49:00 Physician Resident Progress Note
Chief Complaint: Urosepsis and Hypoxia
   24 Hour Events:
 CALLED OUT
   -no plan for pleurex catheter per IP
   -pt continues to have loose BMs, guaic +
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2188-3-21**] 04:34 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2188-3-21**] 08:35 AM
   Heparin Sodium (Prophylaxis) - [**2188-3-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Genitourinary: No(t) Dysuria, Foley
   Flowsheet Data as of  [**2188-3-22**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 71 (70 - 72) bpm
   BP: 144/63(84) {113/54(51) - 150/76(105)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Height: 72 Inch
                  Total In:
                                                                  2,677 mL
                                                                    120 mL
   PO:
                                                                  2,627 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,785 mL
                                                                    830 mL
   Urine:
                                                                  2,785 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -108 mL
                                                                   -710 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/l, stable)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, venostatsis skin changes
   Skin:  Warm, b/l LE venoustasis
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   360 K/uL
   10.1 g/dL
   88 mg/dL
   2.1 mg/dL
   30 mEq/L
   4.3 mEq/L
   32 mg/dL
   109 mEq/L
   145 mEq/L
   32.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2188-3-17**]  04:14 AM
                             [**2188-3-17**]  10:56 AM
                             [**2188-3-17**]  03:05 PM
                             [**2188-3-18**]  06:07 AM
                             [**2188-3-18**]  02:37 PM
                             [**2188-3-19**]  12:35 AM
                             [**2188-3-19**]  05:05 AM
                             [**2188-3-20**]  04:21 AM
                             [**2188-3-21**]  03:49 AM
                             [**2188-3-22**]  03:43 AM
   WBC
   30.9
   20.4
   15.5
   14.5
   9.4
   7.4
   9.1
   9.7
   Hct
   31.4
   30.6
   28.5
   27.7
   26.6
   28.3
   31.0
   32.1
   Plt
   383
   308
   242
   258
   249
   301
   380
   360
   Cr
   1.9
   2.2
   2.4
   2.3
   2.4
   2.4
   2.4
   2.1
   TropT
   0.43
   0.23
   TCO2
   27
   30
   Glucose
   [**Telephone/Fax (3) 235**]01
   82
   82
   91
   88
   Other labs: PT / PTT / INR:14.5/33.6/1.3, CK / CKMB /
   Troponin-T:55/4/0.23, Differential-Neuts:87.0 %, Band:10.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:219 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR [**2-/2109**]:  Stable bilateral moderate pleural effusion.
   Microbiology: FECES NEGATIVE FOR C. DIFFICILE TOXIN BY EIA.  x 3
   Assessment and Plan
   87 y/o male w/ multiple medical problmes including untreated colon ca,
   BPH, severe PHTN, admitted from [**Hospital 232**] clinic w/ hypoxia of 81% on room
   air, transsfered from floors w/ worsened hypoxia, hypotension, fevers,
   and leukocytosis.
   #  Hypoxia
   -               Patient w/ significant hypoxia for last few months, was
   beening seen in onc clinic to work up possible malignant pleural
   effuions.  Etiology of the effusions unclear.  [**Name2 (NI) 233**] tap c/w
   transudate, w/ negative cytology.  Had reaccumulated since initial
   tap.  TTE showed severe PHTN and RV diastolic dysfunction w/ fluid
   overload.  No WML or EKG abn to suggest IMI.  High suspicion of PE in
   this cancer patient, but still does not explain etiology of effusions.
   Degree of effusions seems disproportionate to degree of RV diastolic
   HF.
   -               No CTA [**2-23**] to ARF, V/Q scan not an option [**2-23**] to
   effusions
   -               Pleurodesis not a good option given tranudative
   etiology.  [**Month (only) 51**] address possible pig tail cath for drainage later in
   admission
   -               Continue 02 support, oxygenation improved since
   yesterday
s tap, now on 6L w/ shovel max w/ good O2 sats.
   #Septic Shock:
   -               acute sepsis from GU source in setting of prolonged
   urologic manipulation during foley insertion.  Patient intitially w/
   fevers and leukocytosis.
   -               Was on vanc/zosyn/cipro for double coverage to [**Month (only) **]
   growth of GNR from Ucx.  Sensitivities back, cipro/vanc d/c
d and zosyn
   switched today to CTX.
   -               Hypotension w/ infection and concominant dursesis.
   Started on neo/levo/vaso for pressors, now d/c
d and pressures stable.
   Feel patient slightly fluid overloaded now, with poor UOP over last few
   days w/ ARF, and will have goal of 0.5L today.
   # Hematuria:
   -               now resolved.  Patient w/ [**First Name9 (NamePattern2) 227**] [**Last Name (un) **] stopped per urology.
   -               foley still in place, will likely need to keep until
   confident in removing [**2-23**] to difficult in placing
   # PAF:  on amioderone at home, no RVR.  Continue home dose, currently
   in sinus.  Not anticoagulatd given fugating colon CA.
   # Colon Ca:  fungating mass dx in [**2184**], patient declinded treatment.
   Was in [**Hospital 232**] clinic to evaluate pleural effusions.  No malignant cells on
   cytology.   While palliative resection was one therapeutic option given
   pencil thin stools, patient declining further work up /treatment.
   # ARF:  Worsened Cr of 1.1 on admssion, 2.4 peakn now down to 2.1.  Pre
   renal from septic shock/ diuresis vs ATN from hypotensin.  Renal u/s
   r/o
d post-renal obstruction.  FeNA of 0.9.  Will continue to montior
   I/O's to keep up w/ potential diuresis.
   #Diahrea:  Per nursing, c.diff in appearece, although negative toxin A
   x 2.  No evidence currently of infection, so not a suspioun level to
   warrant beginning empiric treatment.
   ICU Care
   Nutrition:
   Comments: Regular Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Called out to Floor

2188-03-22 12:19:00 Physician Attending Progress Note
Chief Complaint: hypoxia, urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 87 yo M with MMP
colon ca, untreated, BPH, sev pulm HTN, chronic
   transudative  effusions , diastolic CHF,  admitted with shock--probable
   mixed cardiogenic and septic shock- e coli urosepsis and ARF
   24 Hour Events:
 CALLED OUT and awaiting floor bed, continues to have diarrhea
   History obtained from Patient, house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2188-3-21**] 04:34 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-3-21**] 08:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-22**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 71 (70 - 72) bpm
   BP: 153/83(102) {114/54(51) - 153/83(105)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 92%
   Heart rhythm: AV Paced
   Height: 72 Inch
                  Total In:
                                                                  2,677 mL
                                                                    480 mL
   PO:
                                                                  2,627 mL
                                                                    480 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,785 mL
                                                                  1,455 mL
   Urine:
                                                                  2,785 mL
                                                                  1,455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -108 mL
                                                                   -975 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%--95%
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+, chronic stasis changes
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Not assessed, No(t) Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   360 K/uL
   88 mg/dL
   2.1 mg/dL
   30 mEq/L
   4.3 mEq/L
   32 mg/dL
   109 mEq/L
   145 mEq/L
   32.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2188-3-17**]  04:14 AM
                             [**2188-3-17**]  10:56 AM
                             [**2188-3-17**]  03:05 PM
                             [**2188-3-18**]  06:07 AM
                             [**2188-3-18**]  02:37 PM
                             [**2188-3-19**]  12:35 AM
                             [**2188-3-19**]  05:05 AM
                             [**2188-3-20**]  04:21 AM
                             [**2188-3-21**]  03:49 AM
                             [**2188-3-22**]  03:43 AM
   WBC
   30.9
   20.4
   15.5
   14.5
   9.4
   7.4
   9.1
   9.7
   Hct
   31.4
   30.6
   28.5
   27.7
   26.6
   28.3
   31.0
   32.1
   Plt
   383
   308
   242
   258
   249
   301
   380
   360
   Cr
   1.9
   2.2
   2.4
   2.3
   2.4
   2.4
   2.4
   2.1
   TropT
   0.43
   0.23
   TCO2
   27
   30
   Glucose
   [**Telephone/Fax (3) 235**]01
   82
   82
   91
   88
   Other labs: PT / PTT / INR:14.5/33.6/1.3, CK / CKMB /
   Troponin-T:55/4/0.23, Differential-Neuts:87.0 %, Band:10.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:219 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Imaging: b/l effusions layering, R > L, slightly increased
   Microbiology: c diff - X 3
   Assessment and Plan
   87 yo M with MMP
colon ca, untreated, BPH, sev pulm HTN, chronic
   transudative  effusions , diastolic CHF,  admitted with shock--probable
   mixed cardiogenic and septic shock- e coli urosepsis and ARF
improving
   Active issues remain:
   >HYPOXIA: felt [**2-23**] to presumed PE (based on echo and clinical hx),
   chronic effusions (transudative) from diastolic CHF
                After extensive discussion with pt and family
have not
   started on empiric anticoagulation given high risk of GI bleeding (heme
   + stools, prior GIB, known colon ca with no staging, dx
d [**2184**]),  given
   recurrent renal failure and high risk from anticoag feel, as noted,
   ctpa contraindicated  to definitively dx pe at this time as dx would
   not change management, has had neg LENIs  and has  declined IVC filter
                slow improvement in oxygenation, still with b/l effusions
   which will likely continue to reaccumulate and require repeat
   thoracenteses as needed
                Diastolic dysfx with CHF also contributing, now
   autodiuresing
        #pleural effusions
felt [**2-23**] diastolic heart failure and possibly
   from PE (though exudative more common)
   Have discussed with IP service whether pleurex cath might be considered
   given what appears to be slow reaccumulation post tap.  Pt would likely
   require 2 catheters given b/l effusions.  Data is limited regarding
   benefit from such cath for transudative effusions from diastolic CHF,
   additionally would be difficult for patient to care for
           Would follow clinically and consider repeat  taps as necessary
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): likely due to low
   cardiac output and sepsis leading to ATN
   non-oliguric.  Creatinine now improving and  starting auto-diuresis
   phase of ATN
   > SHOCK: urosepsis, resolved
    complete course of ctx for 10-14 days after foley removal given
   bacteremia
   > diarrhea--c diff neg X 3 and with stable wbc, ? related to
   antibx--continue to monitor and consider repeating c diff evaluation if
   persists
 PROSTATIC HYPERTROPHY, BENIGN (BPH): Hematuria resolved, [**Month/Day (2) 227**] stopped
   with good u/o
      would remove foley when pt able to use urinal, noting difficult
   foley placement
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
have
   readdressed extensively with pt and family pt declines further
   evaluation or staging  of  known colonic malignancy
 ATRIAL FIBRILLATION (AFIB): Rate controlled on Amio
   Other issues discussed with housestaff. Agree with their assessments
   and plan as documented
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor--awaiting floor bed
   Total time spent: 35 minutes

2188-03-23 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - persistent diarrhea with eating ~ every 2+ hours, guaiac +
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2188-3-22**] 04:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-3-22**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: breathing improved
   Gastrointestinal: Diarrhea, approx q2h
   Flowsheet Data as of  [**2188-3-23**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.2
C (95.3
   HR: 70 (70 - 71) bpm
   BP: 116/58(72) {114/53(59) - 153/95(102)} mmHg
   RR: 16 (14 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm), AV Paced
   Height: 72 Inch
                  Total In:
                                                                    530 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    445 mL
   Urine:
                                                                  2,555 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,025 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   improved air movement
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   360 K/uL
   9.5 g/dL
   91 mg/dL
   1.9 mg/dL
   29 mEq/L
   3.8 mEq/L
   28 mg/dL
   108 mEq/L
   143 mEq/L
   31.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2188-3-17**]  10:56 AM
                             [**2188-3-17**]  03:05 PM
                             [**2188-3-18**]  06:07 AM
                             [**2188-3-18**]  02:37 PM
                             [**2188-3-19**]  12:35 AM
                             [**2188-3-19**]  05:05 AM
                             [**2188-3-20**]  04:21 AM
                             [**2188-3-21**]  03:49 AM
                             [**2188-3-22**]  03:43 AM
                             [**2188-3-23**]  04:21 AM
   WBC
   20.4
   15.5
   14.5
   9.4
   7.4
   9.1
   9.7
   8.5
   Hct
   30.6
   28.5
   27.7
   26.6
   28.3
   31.0
   32.1
   31.5
   Plt
   [**Telephone/Fax (3) **]49
   [**Telephone/Fax (2) 245**]60
   Cr
   2.2
   2.4
   2.3
   2.4
   2.4
   2.4
   2.1
   1.9
   TropT
   0.23
   TCO2
   27
   30
   Glucose
   135
   120
   101
   82
   82
   91
   88
   91
   Other labs: PT / PTT / INR:14.5/33.6/1.3, CK / CKMB /
   Troponin-T:55/4/0.23, Differential-Neuts:87.0 %, Band:10.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:219 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   87 y/o male w/ multiple medical problems including untreated colon ca,
   BPH, severe PHTN, admitted from [**Hospital 232**] clinic w/ hypoxia of 81% on room
   air, transferred from floors w/ worsened hypoxia, hypotension, fevers,
   and leukocytosis.
   .
   #  Hypoxia
   -   Patient w/ significant hypoxia for last few months, was been seen
   in onc clinic to work up possible malignant pleural effuions.  Etiology
   of the effusions unclear.  Initial tap c/w transudate, w/ negative
   cytology.  Had reaccumulated since initial tap.  TTE showed severe PHTN
   and RV diastolic dysfunction w/ fluid overload.  No WML or EKG abn to
   suggest IMI.  High suspicion of PE in this cancer patient, but still
   does not explain etiology of effusions.  Degree of effusions seems
   disproportionate to degree of RV diastolic HF.
   -   No CTA [**2-23**] to ARF, V/Q scan not an option [**2-23**] to effusions
   -  no empiric anticoagulation [**2-23**] h/o GI bleed
   -   Pleurodesis not a good option given transudative etiology
   -  Discussed with IP possible pig tail cath v pleurex catheter for
   drainage, not felt to be a good option at this time
   -   Continue 02 support, oxygenation improved and stable since tap, now
   on w/ shovel max w/ good O2 sats.
   .
   # Septic Shock:
   -   acute sepsis from GU source in setting of prolonged urologic
   manipulation during foley insertion.  Patient intitially w/ fevers and
   leukocytosis.
   -   Was on vanc/zosyn/cipro for double coverage to intial growth of GNR
   from Ucx.  Sensitivities back, cipro/vanc d/c
d and zosyn switched to
   CTX on [**3-19**].  Will require 14 day course from day of Foley d/c.
   -   Hypotension w/ infection and concominant dursesis. Started on
   neo/levo/vaso for pressors, now d/c
d and pressures stable.
   .
   # Diarrhea
 multiple, loose bowel movements overnight, stools approx
   q2 hours
   -  cdiff neg x2, f/u 3rd
   .
   # Hematuria:
   .
   -  now resolved.  Patient s/p CBI
   .
   # PAF:  on amiodarone at home, no RVR.  Continue home dose, currently
   in sinus.  Not anticoagulated given fungating colon CA.
   # Colon Ca:  fungating mass dx in [**2184**], patient declined treatment.
   Was in [**Hospital 232**] clinic to evaluate pleural effusions.  No malignant cells on
   cytology.   While palliative resection was one therapeutic option given
   pencil thin stools, patient declining further work up /treatment.
   Stools guaiac positive.
   # ARF:  Worsened Cr of 1.1 on admission, 2.4 now and stable.  Pre renal
   from septic shock/ diuresis vs ATN from hypotension.  Renal u/s r/o
   post-renal obstruction.  Not that CBI complete, will monitor urine
   output.
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2188-3-16**] 08:00 PM
   20 Gauge - [**2188-3-16**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition:Transfer to floor